US05994321
5Amino-3-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-7-oxothiazolo[4,5-d]pyrimidine-2(3H,6H)-thione. (T70152)
A mixture of 5-amino-3-(2-deoxy-2-fluoro-3,5-di-O-benzoyl-β-D-arabinofuranosyl)-7-oxothiazolo[4,5-d]pyrimidine-2(3H,6H)-thione (0.18 g, 0.33 mmol), NaOCH3 (0.055 g) and anhydrous MeOH (60 mL) was stirred at room temperature for 16 h with the exclusion of moisture. The reaction mixture was neutralized with Amberlite IR-120(H+) ion-exchange resin. The resin was removed by filtration and the filtrate was evaporated to dryness. The residue was dissolved in MeOH (5 mL), adsorbed onto silica gel (5 g) and loaded on top of a prepacked (in CH2Cl2) silica gel column (2.8×15 cm). The column was flash eluted with CH2Cl2 :MeOH (9:1), the homogeneous product was isolated and crystallized from aqueous EtOH; 0.068 g (0.178 mmol, 54%), mp 240-242° C. (dec). Ir (KBr): ν3210-3410 (OH, NH2), 1685 (C=O), and 1630 (C=S) cm-1 ; Uv, λmax (nm) (ε×10-3): pH 1, 352 (6.5), 291 (3.2), 264 (5.1), 244 (5.4), 216 (5.5); pH 7, 356 (6.2), 264 (5.1), 244 (5.5); pH 11, 356 (6.1), 264 (5.1), 244 (5.6). 1H nmr (DMSO-d6): δ3.74 (m, 3H, C5'H2 and C4'H), 4.72 (t, 1H, C5'OH), 4.90 (m, 1H, C3'H), 5.25 (q, 1H, C2'H), 5.58 (d, 1H, C3'OH), 6.93 (s, 2H, NH2), 7.10 (t, J1',2' =7.6 Hz, 1H, C1'H), 11.53 (s, 1H, NH). Anal. Calc'd for C10H11FN4O4S2.C2H5OH (380.41): C, 37.88; H, 4.50; N, 14.73; S, 16.85; F, 4.99. Found: C, 37.72; H, 4.17; N, 14.93; S, 16.54; F, 5.16.

reactant | 5-amino-3-(2-deoxy-2-fluoro-3,5-di-O-benzoyl-β-D-arabinofuranosyl)-7-oxothiazolo[4,5-d]pyrimidine-2(3H,6H)-thione | 0.33 mmol, 0.18 g | NC=1NC(C2=C(N1)N(C(S2)=S)[C@H]2[C@H]([C@H](OC(C1=CC=CC=C1)=O)[C@H](O2)COC(C2=CC=CC=C2)=O)F)=O | C24H19FN4O6S2
reactant | NaOCH3 | 0.055 g | O([Na])C
solvent | MeOH | 60 mL | CO | CH4O
product | 5Amino-3-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-7-oxothiazolo[4,5-d]pyrimidine-2(3H,6H)-thione | NC=1NC(C2=C(N1)N(C(S2)=S)[C@H]2[C@H]([C@H](O)[C@H](O2)CO)F)=O | C10H11FN4O4S2
